### PR TITLE
feat(Wikipedia): Taxicab(5, 2, n) for n > 1

### LINKED ISSUE #2252: Taxicab(5,2,n) existence for n > 1
### What is the conjecture

 A **Taxicab number** $\text{Taxicab}(k, m, n)$ is the smallest positive integer that can be expressed as a sum of $m$ positive $k$-th powers in at least $n$ distinct ways.

The conjecture asks: **Do any Taxicab(5, 2, n) exist for n > 1?**

Equivalently, does there exist a positive integer that can be represented as a sum of two fifth powers in at least two distinct ways? That is, do there exist positive integers $a, b, c, d$ with $(a, b) \neq (c, d)$ (as unordered pairs) such that

$$a^5 + b^5 = c^5 + d^5$$

This is a longstanding open question in additive number theory. For lower powers, Taxicab(2, 2, 2) = 1729 is famously known. However, the existence of Taxicab(5, 2, 2) remains unknown.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Taxicab_number|https://mathworld.wolfram.com/TaxicabNumber.html

### Prerequisites needed

**Formalizability Rating:** 1/5 (0 is best) (as of 2026-02-10)

Building blocks (1-3; from search results):
- Exponentiation (`^` operator in Mathlib)
- Natural number arithmetic and equality
- `Finset` for finite collections

Missing pieces (exactly 2; unclear/absent from search results):
- A definition encoding "representations of $n$ as unordered pairs $(a, b)$ with $a^5 + b^5 = n$"
- A helper for counting distinct representations

Rating justification: Exponentiation, addition, and equality are fully available in Mathlib. Only minor helper definitions are needed to construct the set of representations and express distinctness. The core mathematical objects (naturals, exponentiation) are in place.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by parabamoghv**
Resolves #2252 

I used Aristotle (Harmonic) help with the formalization and to prove a test case. Please let me know if you have any comments on the formalization or overall style.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Taxicab.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+
+namespace Taxicab
+
+/-- Predicates for non-empty list with all non-zero elements -/
+def is_nonempty_nonzero (L : List ℕ) : Prop := L ≠ [] ∧ 0 ∉ L
+
+/-- The sum of the k-th powers of the elements of a list.
+-/
+def sum_of_kth_powers (k : ℕ) (L : List ℕ) : ℕ :=
+  (L.map (· ^ k)).sum
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Taxicab.lean]: I'd suggest to inline these two definitions, since they are only used once.

File: FormalConjectures/Wikipedia/Taxicab.lean [hunk 2]
```diff
@@ -0,0 +1,102 @@
...
+
+/-- x is a candidate for being a taxicab number for k, m, n if there exists a (finite) set of at least n distinct, pairwise disjoint, non-empty, non-zero lists of length m, such that the sum of the k-th powers of the elements of each list is x. The disjointness condition ensures that the representations do not share any common terms.
+-/
+def is_possible_taxicab_for (k m n : ℕ) (x : ℕ) : Prop :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Taxicab.lean]:
```suggestion
def IsPossibleTaxicabFor (k m n x : ℕ) : Prop :=
```
Perhaps we can even drop the `Possible` here?

File: FormalConjectures/Wikipedia/Taxicab.lean [hunk 3]
```diff
@@ -0,0 +1,102 @@
...
+theorem taxicab_1729_is_possible : is_possible_taxicab_for 3 2 2 1729 := by
+  use {{1, 12}, {9, 10}}
+  simp [List.Disjoint, sum_of_kth_powers];
+  simp [is_nonempty_nonzero]
+  simp +decide
+
+
+/-- The set of all possible taxicab numbers for given k, m, n.
+-/
+def set_of_possible_taxicab_numbers_for (k m n : ℕ) : Set ℕ := { x : ℕ | is_possible_taxicab_for k m n x }
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Taxicab.lean]: please inline

File: FormalConjectures/Wikipedia/Taxicab.lean [hunk 4]
```diff
@@ -0,0 +1,102 @@
...
+
+/-- x is a taxicab number if it is the smallest number that can be expressed as a sum of m positive k-th powers in at least n distinct ways.
+-/
+def is_taxicab (k m n : ℕ) (x : ℕ) : Prop :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Taxicab.lean]:
```suggestion
def IsTaxicab (k m n : ℕ) (x : ℕ) : Prop :=
```

File: FormalConjectures/Wikipedia/Taxicab.lean [hunk 5]
```diff
@@ -0,0 +1,102 @@
...
+    · grind;
+    · have := hS₂ _ ht _ hs; simp_all +decide ;
+      grind;
+    · have := hS₂ _ hs _ ht; simp_all +decide [ List.Disjoint ] ;
+      have := this.2 _ hs; have := this.2.2; simp_all +arith +decide [ sum_of_kth_powers ] ;
+      grind;
+    · have := hS₂ _ hs _ ht; simp_all +decide [ List.Disjoint ] ;
+      grind +ring
+
+/-- Taxicab number Ta(5, 2, n) is not-known for any n ≥ 2. Whether such a number exists is also not known. -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Taxicab.lean]: The `Ta(5, 2, n)` doesn't seem be introduced in the definiions.
Let's either do that or not use it.

Also: please use latex markdown throughout the definitions.

File: FormalConjectures/Wikipedia/Taxicab.lean [hunk 6]
```diff
@@ -0,0 +1,102 @@
...
+@[category research open, AMS 11]
+theorem taxicab_for_5_2_n : answer(sorry) ↔ ∃ n : ℕ, n ≥ 2 ∧ (∃ x : ℕ, is_taxicab 5 2 n x) := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Taxicab.lean]: perhaps it would make sense to have a separate theorem for the easiest open cases here, namely `taxicab_for_5_2_2`?

File: FormalConjectures/Wikipedia/Taxicab.lean [hunk 7]
```diff
@@ -0,0 +1,102 @@
...
+/-!
+# Taxicab numbers
+
+A "taxicab number" for natural numbers k, m, n is the smallest number x that can be expressed as a sum of m positive k-th powers in at least n distinct ways. The most famous taxicab number is
+1729 = 1³ + 12³ = 9³ + 10³, also known as the Hardy–Ramanujan number.
+
+However, Taxicab(5, 2, n) is not known for any n ≥ 2:
+No positive integer is known that can be written as the sum of two 5th powers in more than one way, and it is not known whether such a number exists.
+
+*References:*
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Taxicab.lean:37]: potentially also link relevant OEIS sequences

File: FormalConjectures/Wikipedia/Taxicab.lean (hunk 2 above)
Comment (parabamoghv) [reply FormalConjectures/Wikipedia/Taxicab.lean]: I had `is_possible_taxicab_for` since `x` need not be the smallest such number. I didn't like using `possible` but that's what I thought. For now I changed the name to `IsTaxicabFor'`

File: FormalConjectures/Wikipedia/Taxicab.lean (hunk 6 above)
Comment (parabamoghv) [reply FormalConjectures/Wikipedia/Taxicab.lean]: Yes, I added a separate theorem for `taxicab_for_5_2_2`

**Comment by parabamoghv** [comment]
Made the suggested changes. Any comments are welcome

**Comment by parabamoghv** [comment]
-awaiting-author

**Comment by parabamoghv** [comment]
Semicolons removed, and all lines should be under 100 characters. Let me know if I missed something.

**Comment by mo271** [comment]
Thanks again!
